US06949573B2
4-{[5-Fluoro-2-(4-fluorophenoxy)-pyridine-3-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester (2.58 g, 5.95, mmol) (see Preparation 28) was dissolved in dichloromethane (15 ml) and hydrogen chloride gas bubbled through the solution at 0° C. for 10 minutes. The reaction mixture was then held under an atmosphere of nitrogen at room temperature for a further 45 minutes and the solvent removed in vacuo. The resultant white precipitate was triturated with diethylether (2-fold 10 ml) giving 5-fluoro-2-(4-fluoro-phenoxy)-N-piperidin-4-yl-nicotinamide hydrochloride (2.14 g) as a white solid.

reactant | 4-{[5-Fluoro-2-(4-fluorophenoxy)-pyridine-3-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 2.58 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C=1C(=NC=C(C1)F)OC1=CC=C(C=C1)F | C22H25F2N3O4
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 5-fluoro-2-(4-fluoro-phenoxy)-N-piperidin-4-yl-nicotinamide hydrochloride | 2.14 g | Cl.FC=1C=NC(=C(C(=O)NC2CCNCC2)C1)OC1=CC=C(C=C1)F | InChI=1S/C17H17F2N3O2.ClH/c18-11-1-3-14(4-2-11)24-17-15(9-12(19)10-21-17)16(23)22-13-5-7-20-8-6-13;/h1-4,9-10,13,20H,5-8H2,(H,22,23);1H
